* Copyright 2022 GlobalFoundries PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*      http://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* Sources
Vdd VDD 0 dc 5
Vin1 I1 0 dc pulse(0 5 200p 1p 1p 200p 400p)
Vin2 I2 0 dc pulse(0 5 400p 1p 1p 400p 800p)

* Main circuit
X1 I1 I2 ZN VDD VDD 0 0 gf180mcu_fd_sc_mcu7t5v0__nand2_1

* Temperature set
.temp 25
.options tnom=25

* Analyses
.tran 1p 800p
.meas tran o0 FIND V(ZN) AT=200p
.meas tran o1  FIND V(ZN) AT=400p
.meas tran o2 FIND V(ZN) AT=600p
.meas tran o3  FIND V(ZN) AT=800p
.print TRAN FORMAT=CSV file=nand2_simulated.csv o0 o1 o2 o3


* Libraries calling
.include "../../../design.spice"
.lib "../../../sm141064.spice" typical

.SUBCKT gf180mcu_fd_sc_mcu7t5v0__nand2_1 A1 A2 ZN VDD VNW VPW VSS
xM_i_1 net_0 A2 VSS VPW nfet_06v0 W=8.2e-07 L=6e-07
xM_i_0 ZN A1 net_0 VPW nfet_06v0 W=8.2e-07 L=6e-07
xM_i_3 ZN A2 VDD VNW pfet_06v0 W=1.13e-06 L=5e-07
xM_i_2 VDD A1 ZN VNW pfet_06v0 W=1.13e-06 L=5e-07
.ENDS


.end
